US07067517B2
4-Pyridin-3-ylmethyl-piperazine-1-carboxylic acid 4-(3,3-dimethyl-butylcarbamoyl)-phenyl ester
The title product was prepared from 1-pyridin-3-ylmethyl-piperazine was dissolved in dichloromethane (5 ml). 4-(3,3-Dimethyl-butylcarbamoyl)-phenyl chloroformate (0.35 mmol) was added at room temperature. The reaction mixture was stirred for 16 h and evaporated to dryness and subjected to preparative HPLC (metod C) (88%, light yellow oil). HPLC-MS m/z=425.4 (M+1), Rt: 2.33 min.

reactant | 1-pyridin-3-ylmethyl-piperazine | N1=CC(=CC=C1)CN1CCNCC1 | C10H15N3
reactant | 4-(3,3-Dimethyl-butylcarbamoyl)-phenyl chloroformate | 0.35 mmol | ClC(=O)OC1=CC=C(C=C1)C(NCCC(C)(C)C)=O | C14H18ClNO3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-Pyridin-3-ylmethyl-piperazine-1-carboxylic acid 4-(3,3-dimethyl-butylcarbamoyl)-phenyl ester | CC(CCNC(=O)C1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC=1C=NC=CC1)(C)C | C24H32N4O3
